US09108939B2
C: 1,1,1,3,3,3-Hexafluoro-2-(4-((4-(4-nitrobenzylidene)piperidin-1-yl)methyl)phenyl)propan-2-ol
To a stirred mixture of 4-(4-nitrobenzylidene)piperidine (23.83 mmol, 5.2 g) and potassium carbonate (31.0 mmol, 4.28 g) in acetonitrile was added a solution of 2-(4-(bromomethyl)phenyl)-1,1,1,3,3,3-hexafluoropropan-2-ol (23.83 mmol, 8.03 g) in acetonitrile. The reaction was stirred for 5 hours then was concentrated under reduced pressure. Dichloromethane was added and the reaction was filtered. The filtrate was chromatographed on silica (eluting with a gradient of dichloromethane to dichloromethane/ethyl acetate) to give the title compound (7.3 g).

reactant | 4-(4-nitrobenzylidene)piperidine | 23.83 mmol, 5.2 g | [N+](=O)([O-])C1=CC=C(C=C2CCNCC2)C=C1 | C12H14N2O2
reactant | potassium carbonate | 31.0 mmol, 4.28 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-(4-(bromomethyl)phenyl)-1,1,1,3,3,3-hexafluoropropan-2-ol | 23.83 mmol, 8.03 g | BrCC1=CC=C(C=C1)C(C(F)(F)F)(C(F)(F)F)O | C10H7BrF6O
solvent | acetonitrile | C(C)#N | C2H3N
product | 1,1,1,3,3,3-Hexafluoro-2-(4-((4-(4-nitrobenzylidene)piperidin-1-yl)methyl)phenyl)propan-2-ol | 7.3 g | FC(C(C(F)(F)F)(O)C1=CC=C(C=C1)CN1CCC(CC1)=CC1=CC=C(C=C1)[N+](=O)[O-])(F)F | C22H20F6N2O3
